US05312828
(E)-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenamide
(E)-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenoic acid, prepared in Example 2, is treated with thionyl chloride and then ammonium hydroxide, as described in Example 57, to give the title compound.

reactant | (E)-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenoic acid | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)O)\CC1=CC=CC=C1)CC1=C(C=CC=C1)Cl | C24H25ClN2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | [OH-].[NH4+]
product | (E)-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenamide | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)N)\CC1=CC=CC=C1)CC1=C(C=CC=C1)Cl | C24H26ClN3O
